US04533670
To a solution of 108 g. of 1-fluorenecarboxylic acid in 2 liters of dry tetrahydrofuran cooled to -78° C. by means of an external dry ice/acetone bath were added 2 moles of methyl lithium (6 molar solution in diethyl ether). The reaction was stirred at room temperature for 3 hours and then poured into 3 liters of water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed over silica gel. The appropriate fractions were combined and evaporated to dryness. Recrystallization of the residue from ethyl acetate/hexane gave 1-acetylfluorene, m.p. 84°-87° C.

reactant | 1-fluorenecarboxylic acid | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | methyl lithium | 2 moles, 6 molar | C[Li]
reactant | water | 3 liters | O | H2O
solvent | tetrahydrofuran | 2 liters | O1CCCC1 | C4H8O
product | 1-acetylfluorene | C(C)(=O)C1=CC=CC=2C3=CC=CC=C3CC12 | C15H12O
